US07259159B2
8a) N,N-bis-(Benzenesulfonyl)-cystine-bis-tert-butyl ester
Preparation in analogy to example 6a from 1 g (2.35 mmol) of (R)-cystine-bis-tert-butylester and 0.83 g (4.7 mmol) benzenesulfonic acid chloride. Yield: 1.5 g.

reactant | (R)-cystine-bis-tert-butylester | 2.35 mmol, 1 g | C(C)(C)(C)OC([C@H](CSSC[C@@H](C(=O)OC(C)(C)C)N)N)=O | C14H28N2O4S2
reactant | benzenesulfonic acid chloride | 4.7 mmol, 0.83 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N,N-bis-(Benzenesulfonyl)-cystine-bis-tert-butyl ester | C(C)(C)(C)OC([C@H](CSSC[C@@H](C(=O)OC(C)(C)C)N)N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C26H36N2O8S4
